*$
***********************************************************************
*  (C) Copyright 2014 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer
********************************************************************************
*
* Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: CSD22202W15
* Date: 09/20/2014
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2
* EVM Order Number: 
* EVM Users Guide:
* Datasheet: SLPS431A - JUNE 2013 - REVISED JULY 2014
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web
*
*****************************************************************************
*
* Model Usage Notes:
*
*****************************************************************************
**********************************************************************
*                                                                    *
*  CSD22202W15  -  P-Channel 08/06 CSP 1.5x1.5 mm^2                  *
*                                                                    *
**********************************************************************
* SUBCKT Definition:  1=D  2=G  3=S
.SUBCKT CSD22202W15  1 2 3

.param width {1.4375/1.15}
.param length 0.4u
.param ptrc1 {4.00e-3*1}
.param ptrc2 {0.50e-5*1}

R_drain_ball	1	n1	0.05e-3
R_drain_metal	n1	n2	RTEMP	2.70e-3
RG		2	n3	25
MP1		n2 n3	n4 n4	P22202	l={length} w={width} ps={2.1*width} pd={2.1*width}
R_substrate	n4	n5	1.70e-3
R_source	n5	n6	2.13e-3
R_source_ball	n6	3	0.05e-3

DB	1	3	DBD

DGD  n2 n7	  DD
DDG  n3 n7	  DD

.MODEL P22202 PMOS (LEVEL=7 VERSION=3.2 CAPMOD=2 MOBMOD=1
+ TOX=1.0E-8	 XJ=2.26E-7   NCH=4.50E17    KT1=-0.6
+ NSUB=3.16E16	 XT=8.66E-8   NSS=3E11	     ub=8.00E-18
+ PCLM=5	 VTH0=-1.0    U0= 376.72     WINT=2.0E-7   LINT=2.26E-8  NGATE=5E20
+ RSH=0	         JS=3.51E-18  JSW=3.51E-18   CJ=5.28E-18   MJ=0.5        PB=0.94
+ CJSW=1.19E-18	 MJSW=0.5     PBSW=0.94
+ CGSO=4.5E-18	 CGDO=1.0E-18 CGBO=5.75E-18)

.MODEL RTEMP RES (TC1={ptrc1} TC2={ptrc2})

.MODEL DBD D (
+ CJO=850E-12	VJ=0.9	M=0.20	FC=0.5	TT=3e-9
+ TNOM=27		RS=10.00e-3 	TRS1=1e-3 	IS=2.00e-12 N=1.0
+ XTI=3.50 		BV=8.5)

.MODEL DD D (
+ CJO=280e-12	VJ=0.9	M=0.4	FC=0.5	TT=1e-9
+ TNOM=27		IS=1.00e-12 N=1.0  RS = 0.1 )

.ENDS CSD22202W15  
*$