***********************************************************************
*  (C) Copyright 2014 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer
********************************************************************************
*
* Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: CSD25202W15
* Date: 06/26/2014
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2
* EVM Order Number: 
* EVM Users Guide: 
* Datasheet: SLPS508 - JUNE 2014
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web
*
*****************************************************************************
*
* Model Usage Notes:
*
*****************************************************************************
**********************************************************************
**********************************************************************
*                                                                    *
*  CSD25202W15  -  P-Channel PSpice Model                            *
*                                                                    *
**********************************************************************
* SUBCKT Definition:  1=D  2=G  3=S
**********************************************************************
.SUBCKT CSD25202W15  1 2 3
.param pitch	1.53
.param AA25202	1.533
.param width	{AA25202/pitch}
.param length 	0.4u
.param ptrc1 	{1.50e-3*1}
.param ptrc2 	{0.50e-5*1}
M1   10 11 12 12  PMOS 	W={width} L={length} PD={2*width} PS={2*width}
M2   12 11 12 20  NMOSd W={width} L=0.03u PD={2*width} PS={2*width}
DBD   7  8	  DBD
RBD   7  8	  1e9
CBD   7  8	  15e-12
CGD   5  4	  1e-12
DGD  11 13	  DD
DDG  10 13	  DD
CGS   5  6	  1.0E-15
LGG   2  5	  0.2e-9
RGG   5 x	  31
Lx	x	11	1.0
Cx	x	11	1.775e-9
RSB  12  9	  RTEMP 1.0e-3
RSS   9  8	  RTEMP 9.25e-3
Rsub  8  6	  6.0E-6
LSS   6  3	  0.02E-9
RDD   7 10	  RTEMP 2.0e-3
RDP   4  7	  1.5E-3
LDD   1  4	  0.1E-9
desd  5  8	  zenerd
DDx  10 20    DDx
******************************************************************* 
.MODEL  PMOS   PMOS (
+ LEVEL   = 7		Version = 3.2           TNOM    = 27
+ LINT    = 0.025e-6       
+ TOX     = 1.00E-8     NCH     = 1.15e17	NSUB    = 5.2e15
+ A0      = 1.00        A1      = 0.0          	A2      = 1.0
+ UA      = 2.00E-09    UB      = 0.0E-19     	VBM     = -3
+ UA1     = 0.00e-9     UB1     = -0.00e-19    	UTE     = -1.50
+ KT1     = -0.64   	KT2     = .022         	KT1L    = 0.00
+ Dvt0    = 2.2         Dvt1    = 0.53         	Dvt2    = -0.032
+ PCLM    = 2.5
+ PDIBLC1 = 0.4         PDIBLC2 = 0.0086	U0	= 80
+ VOFF    = -0.1      	NFACTOR = 2.0         	NLX     = 1.74e-7
+ ETA0    = 0.08        ETAB    = -0.07        	DROUT   = 0.56
+ PSCBE1  = 4.24e8      PSCBE2  = 1.0e-5       	B0      = 0.0
+ DELTA   = 0.01        AGS     = 0.0          	JS      = 0
+ CJ      = 1e-18       CJSW    = 1e-18        	CF      = 0
+ CGSO    = 7.5e-10     CGDO    = 1e-12 		CGBO    = 0  )
*******************************************************************
.MODEL DBD D (
+ CJO=1000E-12	VJ=0.75	M=0.39	FC=0.5	TT=3e-9
+ TNOM=27		RS=40.00e-3 	TRS1=1e-3 IS=1.00e-11 N=1.0
+ XTI=-3.00 		BV=21)
*******************************************************************
.MODEL DD D (
+ CJO=300e-12	VJ=0.7	M=0.9	FC=0.5	TT=1e-9
+ TNOM=27		IS=1.00e-12 N=1.0  RS = 0.1 )
*******************************************************************
.MODEL ZENERD D (
+ CJO=25E-15	VJ=0.7	M=0.45	RS=0.225	TRS1=-2e-3
+ FC=0.5	TT=3E-9	IS=1.00e-14 N=1.02	XTI=3.5
+ BV=6.08)
.MODEL RTEMP RES (TC1={ptrc1} TC2={ptrc2})
*******************************************************************
.MODEL  NMOSd   NMOS (   LEVEL  = 1
+ TNOM   = 27            VTO    = 0.50          IS     = 1.0e-14
+ TOX    = 1.0e-8        NSUB   = 2.0e17        GAMMA  = 7
+ CJ     = 1e-18         CJSW   = 1e-18
+ CGSO   = 1e-18         CGDO   = 1e-18         CGBO   = 1e-18  )
.MODEL DDx D (CJO=20e-12 VJ=0.40 M=0.50 IS=1e-12 RS=1.0 TNOM=27)
.ENDS CSD25202W15  
*$
